US08669398B2
Preparation of 2-(4-hydroxy-2,2,6,6-tetramethyl-piperidin-1-yl)-1,3-diisopropyl-isourea (compound 9)
4-Hydroxy-2,2,6,6-tetramethylpiperidine-N-oxyl (17.25 g, 100 mmol) is dissolved in THF (100 ml) and hydrogenated in the presence of 0.35 g Pt (5% on carbon) catalyst using 4 bar hydrogen pressure. The hydrogen uptake stops after approximately one hour. The reaction mixture is then filtered and mixed with the solution of diisopropylcarbodiimide (18.6 ml, 120 mmol). The solution is then heated under argon at 55° C. for 6 hours, concentrated, diluted with ethyl acetate (40 ml) and allowed to crystallize. The crystals are filtered off, washed with cold ethyl acetate and dried to afford 25.8 g of the title compound as a colorless solid, mp. 118-123° C.

reactant | 4-Hydroxy-2,2,6,6-tetramethylpiperidine-N-oxyl | 100 mmol, 17.25 g | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
reactant | hydrogen | [H][H] | H2
reactant | diisopropylcarbodiimide | 120 mmol, 18.6 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(4-hydroxy-2,2,6,6-tetramethyl-piperidin-1-yl)-1,3-diisopropyl-isourea | 25.8 g | OC1CC(N(C(C1)(C)C)OC(NC(C)C)=NC(C)C)(C)C | C16H33N3O2
